* C:\Program Files\LTC\LTspiceIV\Photoresistor_Array\Photoresistor_Array.asc
R1 A_Out0 N001 {R0_0}
D1 N001 Read0 D
R2 A_Out1 N002 {R1_0}
D2 N002 Read0 D
R3 A_Out0 N004 {R0_1}
D3 N004 Read1 D
R4 A_Out1 N005 {R1_1}
D4 N005 Read1 D
Rload1 Read1 0 10k
Rload0 Read0 0 10k
XU1 Vcon1 A_Out1 arduino_output
XU0 Vcon0 A_Out0 arduino_output
Vcon1 Vcon1 0 {Vcon1}
Vcon0 Vcon0 0 {Vcon0}
R5 A_Out2 N003 {R2_0}
D5 N003 Read0 D
R6 A_Out2 N006 {R2_1}
D6 N006 Read1 D
XU2 Vcon2 A_Out2 arduino_output
Vcon2 Vcon2 0 {Vcon2}
Rload2 Read2 0 10k
R7 A_Out0 N007 {R0_2}
D7 N007 Read2 D
R8 A_Out1 N008 {R1_2}
D8 N008 Read2 D
R9 A_Out2 N009 {R2_2}
D9 N009 Read2 D
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.include C:\Program Files\LTC\LTspiceIV\lib\sub\Arduino_Output.sub
.op
*************************** Resistance Parameters*******************
.param
+R0_0={Rlight} R1_0={Rdark} R2_0={Rdark}
+R0_1={Rdark} R1_1={Rlight} R2_1={Rdark}
+R0_2={Rdark} R1_2={Rlight} R2_2={Rdark}
*************************** End Resistance Parameters*************
.param Rdark=1MEG Rlight=1
*************************** Voltage Parameters*******************
.param
+vcon0=-5 vcon1=5 vcon2=-5
*************************** End Voltage Parameters*************
.backanno
.end
